US06107312
D) 2-Chloromethyl-4-{2-furylmethylthio)-3-methoxypyridine hydrochloride
By the procedure described in Aa) to Ac), the intermediate product 4-(2-furylmethylthio)-2-hydroxymethyl-3-methoxypyridine is obtained starting from 4-chloro-3-methoxy-2-methylpyridine N-oxide; m.p. 56-58° C. Chlorination with thionyl chloride by the procedure described in Example Ad) gives the title compound as a beige powder; m.p. 135° C. (decomp.).

reactant | 4-(2-furylmethylthio)-2-hydroxymethyl-3-methoxypyridine | O1C(=CC=C1)CSC1=C(C(=NC=C1)CO)OC | C12H13NO3S
reactant | 4-chloro-3-methoxy-2-methylpyridine N-oxide | ClC1=C(C(=[N+](C=C1)[O-])C)OC | C7H8ClNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloromethyl-4-{2-furylmethylthio)-3-methoxypyridine hydrochloride | Cl.ClCC1=NC=CC(=C1OC)SCC=1OC=CC1 | InChI=1S/C12H12ClNO2S.ClH/c1-15-12-10(7-13)14-5-4-11(12)17-8-9-3-2-6-16-9;/h2-6H,7-8H2,1H3;1H
